US06716851B2
4-(2-Chloro-5-methoxyanilino)-6-(methoxymethyl)-2-(2-methyl-1,3-thiazol-4-yl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-6-(methoxymethyl)-2-(2-methyl-1,3-thiazol-4-yl)pyrimidine (50 mg, 0.196 mmol) and 2-chloro-5-methoxyaniline (38 mg, 0.196 mmol) similar to Example 13 and isolated as a white solid (33 mg, 45%). 1H NMR (CDCl3): 8.14 (s, 1H), 7.93 (d, J=3.0 Hz, 1H), 7.32 (d, J=8.7 Hz, 1H), 7.22 (s, 1H), 6.86 (s, 1H), 6.64 (dd, J=3.0, 9.3 Hz, 1H), 4.60 (s, 2H), 3.88 (s, 3H), 3.52 (s, 3H), 2.84 (s, 3H).

reactant | 4-chloro-6-(methoxymethyl)-2-(2-methyl-1,3-thiazol-4-yl)pyrimidine | 0.196 mmol, 50 mg | ClC1=NC(=NC(=C1)COC)C=1N=C(SC1)C | C10H10ClN3OS
reactant | 2-chloro-5-methoxyaniline | 0.196 mmol, 38 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-6-(methoxymethyl)-2-(2-methyl-1,3-thiazol-4-yl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)COC)C=2N=C(SC2)C)C=C(C=C1)OC | C17H17ClN4O2S
